US06380218B1
2-(4-Fluoro-phenoxy)-N-(4-hydroxy-benzyl)-nicotinamide
The compound of Example 104 was prepared according to the procedure of Example 103 substituting the corresponding ether for 2-(4-Fluoro-phenoxy)-N-(4-methoxy-benzyl)-nicotinamide. The duration of reaction was between 1 and 24 hours.

reactant | 2-(4-Fluoro-phenoxy)-N-(4-methoxy-benzyl)-nicotinamide | FC1=CC=C(OC2=C(C(=O)NCC3=CC=C(C=C3)OC)C=CC=N2)C=C1 | C20H17FN2O3
solvent | ether | CCOCC | C4H10O
product | 2-(4-Fluoro-phenoxy)-N-(4-hydroxy-benzyl)-nicotinamide | FC1=CC=C(OC2=C(C(=O)NCC3=CC=C(C=C3)O)C=CC=N2)C=C1 | C19H15FN2O3
